US06432656B1
Preparation of N-[2-Hydroxy-3-(1-naphthoxy)propyl]-1,1-dimethyl-2-(4-fluorophenyl)ethylamine Hydrochloride, Compound 2
A stirred solution of 1-naphthyl glycidyl ether (400 mg, 2 mmol) and 1,1-dimethyl-2-(4-fluorophenyl)ethylamine (334 mg, 2 mmol) in absolute ethanol (2 mL) was heated at 50-60° C. for 16 hours. Chromatography of the resulting reaction mixture through silica (5×30 cm) using a gradient of chloroform to 5% methanol in chloroform afforded the free base of the title compound: GC/EI-MS, m/z (rel. int.) 368 (M+1, 1), 352 (2), 258 (100), 183 (5), 157 (4), 127 (5), 115 (18), 109 (23), 71 (30).

reactant | 1-naphthyl glycidyl ether | 2 mmol, 400 mg | C(C1CO1)OC1=CC=CC2=CC=CC=C12 | C13H12O2
reactant | 1,1-dimethyl-2-(4-fluorophenyl)ethylamine | 2 mmol, 334 mg | CC(CC1=CC=C(C=C1)F)(C)N | C10H14FN
reactant | methanol | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[2-Hydroxy-3-(1-naphthoxy)propyl]-1,1-dimethyl-2-(4-fluorophenyl)ethylamine Hydrochloride | Cl.OC(CNC(CC1=CC=C(C=C1)F)(C)C)COC1=CC=CC2=CC=CC=C12 | InChI=1S/C23H26FNO2.ClH/c1-23(2,14-17-10-12-19(24)13-11-17)25-15-20(26)16-27-22-9-5-7-18-6-3-4-8-21(18)22;/h3-13,20,25-26H,14-16H2,1-2H3;1H
